US07157455B2
The same procedure as described in Example 28 was used, starting from [4-amino-2-(piperidin-4-ylamino)-pyrimidin-5-yl]-(2-methoxy-phenyl)-methanone trifluoroacetic acid salt, Example 11, and ethanesulfonyl chloride (Aldrich), to give [4-amino-2-(1-ethanesulfonyl-piperidin-4-ylamino)-pyrimidin-5-yl]-(2-methoxy-phenyl)-methanone. HRMS, observed: 420.1704; Calcd for (M+H)+: 420.1700.

reactant | [4-amino-2-(piperidin-4-ylamino)-pyrimidin-5-yl]-(2-methoxy-phenyl)-methanone trifluoroacetic acid salt | FC(C(=O)O)(F)F.NC1=NC(=NC=C1C(=O)C1=C(C=CC=C1)OC)NC1CCNCC1
reactant | ethanesulfonyl chloride | C(C)S(=O)(=O)Cl | C2H5ClO2S
product | [4-amino-2-(1-ethanesulfonyl-piperidin-4-ylamino)-pyrimidin-5-yl]-(2-methoxy-phenyl)-methanone | NC1=NC(=NC=C1C(=O)C1=C(C=CC=C1)OC)NC1CCN(CC1)S(=O)(=O)CC | C19H25N5O4S
